US04427438
A solution of 4-chloro-2-fluoro-5-isopropoxyaniline (30 g) in toluene (100 ml) was aded to a 1 mol/l phosgene/toluene solution (500 ml) at room temperature (ca. 20° C.), followed by heating under reflux for 2 hours. The mixture was concentrated under reduced pressure and the residue was distilled to give 26 g of 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate as pale yellow crystals. M.P., 36°-37° C. B.P., 90°-91° C./3 mmHg.

reactant | 4-chloro-2-fluoro-5-isopropoxyaniline | 30 g | ClC1=CC(=C(N)C=C1OC(C)C)F | C9H11ClFNO
reactant | phosgene toluene | 1 mol/l, 500 ml | C(=O)(Cl)Cl.C1(=CC=CC=C1)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate | 26 g | ClC1=CC(=C(C=C1OC(C)C)N=C=O)F | C10H9ClFNO2
